US05641765
(v). 17β-(phenethylcarbonyl)-androsta-3,5-diene-3-carboxylic acid
A mixture of methyl 17β-(phenethylcarbonyl)-androsta-3,5-diene-3-carboxylate, K2CO3, water and methanol is heated at reflux for about 5 hours. Acidification followed by conventional workup yields title compound.

reactant | methyl 17β-(phenethylcarbonyl)-androsta-3,5-diene-3-carboxylate | C(CC1=CC=CC=C1)C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)OC | C30H38O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 17β-(phenethylcarbonyl)-androsta-3,5-diene-3-carboxylic acid | C(CC1=CC=CC=C1)C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)O | C29H36O3
